US06964979B2
5-Bromo-6-fluoro-8-methyl-1-propyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic Acid Ethyl Ester
To a solution of 4-bromo-7-methyl tryptophol (400 mg g, 1.47 mmol) and ethyl butyrylacetate (0.28 mL, 1.76 mmol) in CH2Cl2 (5 mL) was added BF3.OEt2 (0.22 mL, 1.76 mmol) dropwise at room temperature. The solution was stirred for 2 hours and then washed with saturated aqueous NaHCO3 (5 mL) and brine (5 mL). The organic phase was dried (Na2SO4) and concentrated. The residue was purified by flash chromatography (silica, 15% EtOAc in hexanes) to give 496 mg (82%) of title compound as a pale yellow solid. Mp=137-138° C.; 1H NMR (CDCl3): 300 MHz δ 9.73 (bs, 1H), 6.76 (d, J=10.1 Hz, 1H), 4.21 (m, 2H), 4.05 (m, 1H), 3.91 (m, 1H), 3.05-2.89 (m, 4H), 2.53 (s, 3H), 2.07 (m, 1H), 1.92 (m, 1H), 1.38 (m, 1H), 1.30 (t, J=6.98 Hz, 3H), 1.21 (m, 1H), 0.89 (t, J=7.08 Hz, 3H).

reactant | 4-bromo-7-methyl tryptophol | 1.47 mmol, 400 mg | CC1=C2C(=C(C=C1)Br)C(=CN2)CC(CO)N | C12H15BrN2O
reactant | ethyl butyrylacetate | 1.76 mmol, 0.28 mL | C(CCC)(=O)CC(=O)OCC | C8H14O3
reactant | BF3.OEt2 | 1.76 mmol, 0.22 mL | B(F)(F)F.CCOCC
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromo-6-fluoro-8-methyl-1-propyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic Acid Ethyl Ester | 496 mg, 82% | C(C)OC(CC1(OCCC2=C1NC1=C(C=C(C(=C21)Br)F)C)CCC)=O | C19H23BrFNO3
